US06359134B1
1-(4-Carboxybenzenesulfonyl)-4-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine
To a solution of 1-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine dihydrochloride (180 mg) and triethylamine (253 mg) in dichloromethane (20 ml) was added 4-chlorosulfonylbenzoic acid (108 mg), and the mixture was stirred at room temperature for 1 hour. The reaction solution was concentrated, and the residue was dissolved in water and neutralized with 1 N hydrochloric acid. The precipitate was filtered, washed with water and dried to give a colorless solid of the title compound (174 mg).

reactant | 1-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine dihydrochloride | 180 mg | Cl.Cl.CC=1N=C(SC1C(=O)N1CCNCC1)C1=CC=NC=C1
reactant | triethylamine | 253 mg | C(C)N(CC)CC | C6H15N
reactant | 4-chlorosulfonylbenzoic acid | 108 mg | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(4-Carboxybenzenesulfonyl)-4-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine | 174 mg | C(=O)(O)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)C1=C(N=C(S1)C1=CC=NC=C1)C | C21H20N4O5S2
